US07902367B2
Step 82a) 1-Trifluoroacetyl-3-[[4-(4-fluorophenoxy)phenyl]methoxymethyl]piperidine
Using 1-trifluoroacetylpiperidin-3-yl methanol (422 mg, 2.00 mmol) and 4-(4-fluorophenoxy)benzylchloride (473 mg, 2.00 mmol), the same procedure was followed as in Step 5a of Example 5 to give 110 mg (13%) of the desired compound as a colorless oil.

reactant | 1-trifluoroacetylpiperidin-3-yl methanol | 2.00 mmol, 422 mg | FC(C(=O)N1CC(CCC1)CO)(F)F | C8H12F3NO2
reactant | 4-(4-fluorophenoxy)benzylchloride | 2.00 mmol, 473 mg | FC1=CC=C(OC2=CC=C(CCl)C=C2)C=C1 | C13H10ClFO
product | 1-Trifluoroacetyl-3-[[4-(4-fluorophenoxy)phenyl]methoxymethyl]piperidine | 110 mg, 13% | FC(C(=O)N1CC(CCC1)COCC1=CC=C(C=C1)OC1=CC=C(C=C1)F)(F)F | C21H21F4NO3
